US04207234
3-[2-(2-Thienyl)-N-(2,2,2-trichloroethoxycarbonyl)glycinamido]-1-(1-carboxy-2-methylpropyl)-2-azetidinone (1.0 g.) was dissolved in N,N-dimethylformamide (5 ml.), and acetic acid (3 ml.) was added thereto. To the solution, there was added zinc powder (1.2 g.) at 15° C. in the course of about half an hour, whereafter the mixture was stirred at 15° to 20° C. for 3 hours. The unreacted zinc powder was filtered off and washed with a small amount of N,N-dimethylformamide, and then this washings and the filtrate were combined. Diethyl ether (about 80 ml.) was added to the combined solution and the precipitating materials were collected by filtration, washed with diethyl ether and then dried to give 3-[2-(2-thienyl)glycinamido]-1-(1-carboxy-2-methylpropyl)-2-azetidinone (690 mg.).

reactant | 3-[2-(2-Thienyl)-N-(2,2,2-trichloroethoxycarbonyl)glycinamido]-1-(1-carboxy-2-methylpropyl)-2-azetidinone | 1.0 g | S1C(=CC=C1)C(N)C(=O)N(C(=O)OCC(Cl)(Cl)Cl)C1C(N(C1)C(C(C)C)C(=O)O)=O | C17H20Cl3N3O6S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
catalyst | zinc | 1.2 g | [Zn] | Zn
product | 3-[2-(2-thienyl)glycinamido]-1-(1-carboxy-2-methylpropyl)-2-azetidinone | 690 mg | S1C(=CC=C1)C(N)C(=O)NC1C(N(C1)C(C(C)C)C(=O)O)=O | C14H19N3O4S
